Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11]>>[O:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10][H:11],0.7694749826010001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9](\[H:10])[O:11][H:12].[H:8],1.97155019
[C:1]#[C:2][O:5][C:6]([H:7])([H:8])[H:9].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9],-4.13589643499
[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],0.1156357300909999
[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:1]#[C:2][H:3].[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[O:10][H:11],0.8108817813600001
[C:7]#[C:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]#[C:8][H:9],-8.00945705299
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.78973651067
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.88225756165
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][C:7]([H:8])[H:9].[O:5][H:6],6.15158229686
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-4.940835068319999
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5][H:6],4.84265721518
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]#[C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5],3.67307555891
[H:1][C:2]([H:3])=[C:4][C:12]([C:9]([C:6]([O:5])([H:7])[H:8])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.98709809826
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.85216745858
[C:6]([H:7])[O:8][H:9].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-6.67782775079
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.1953014265000002
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.58457674753
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7],-1.19680143168
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])[H:14],4.3159649989099975
[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-6.49465236378
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1]=[C:2][H:3],5.09586668498
[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([O:4][C:5])=[C:10]([H:11])[H:12],3.3731040236900003
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-0.7551837478
[H:6].[O:1][O:2][C:3]([C:4][H:5])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-4.60428761896
[H:1][O:2][C:3]([H:4])([H:5])/[C:11]=[C:9](/[C:7](=[C:6][H:12])[H:8])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1=[C:7]([H:8])[C:9]([H:10])=[C:11]1[H:12],-1.73611604747
[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.5999025385900003
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.40780874301
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-3.95906859296
